US06537948B1
A mixture of 3-acetoxy-6-methoxy-2-(methoxycarbonyl)methoxypyridine, potassium carbonate and methanol is stirred for 3 hours at room temperature. The reaction solution is poured into water, and extracted with ethyl acetate. The organic layer is dried over anhydrous magnesium sulfate, and concentrated. The residue is subjected to silica gel column chromatography to obtain 3-hydroxy-6-methoxy-2-(methoxycarbonyl)methoxypyridine.

reactant | 3-acetoxy-6-methoxy-2-(methoxycarbonyl)methoxypyridine | C(C)(=O)OC=1C(=NC(=CC1)OC)OCC(=O)OC | C11H13NO6
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | CO | CH4O
solvent | water | O | H2O
product | 3-hydroxy-6-methoxy-2-(methoxycarbonyl)methoxypyridine | OC=1C(=NC(=CC1)OC)OCC(=O)OC | C9H11NO5
